US09029371B2
To a degassed mixture of 4-benzyl-6-(4-bromo-phenyl)-morpholine (0.45 g; 1.35 mmol), sodium benzenesulfinate (0.27 g; 1.63 mmol), Cs2CO3 (0.66 g; 2.03 mmol), and tetrabutylammonium chloride (0.45 g; 1.63 mmol) in toluene (10 mL), was added Pd2dba3 (31.01 mg; 0.03 mmol) and Xantphos (39.19 mg; 0.07 mmol). The resulting mixture was heated under reflux for 2 days. After cooling to RT, EtOAc and a 5% aqueous NaHCO3 solution were added. The layers were separated and the organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O) to afford 2-(4-benzenesulfonyl-phenyl)-4-benzyl-morpholine (0.28 g).

reactant | 4-benzyl-6-(4-bromo-phenyl)-morpholine | 1.35 mmol, 0.45 g | C(C1=CC=CC=C1)N1CCOC(C1)C1=CC=C(C=C1)Br | C17H18BrNO
reactant | sodium benzenesulfinate | 1.63 mmol, 0.27 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | Cs2CO3 | 2.03 mmol, 0.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | tetrabutylammonium chloride | 1.63 mmol, 0.45 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.03 mmol, 31.01 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.07 mmol, 39.19 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-benzenesulfonyl-phenyl)-4-benzyl-morpholine | 0.28 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C1CN(CCO1)CC1=CC=CC=C1 | C23H23NO3S
